US04469868
A solution of 12 g (0.057 mol) of 7-chloro-3,5-dimethyl-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine in 150 ml of methylene dichloride is treated with 12 g (0.2 mol) of 2-aminoethanol and 8 ml of triethyamine and stirred at room temperature 48 hours. The mixture is filtered to give 7.6 g (56%) of 2-[1-ethyl-3,5-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl]aminoethanol, mp 181°-183° C. from ethyl acetate.

reactant | 7-chloro-3,5-dimethyl-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine | 0.057 mol, 12 g | ClC=1C2=C(N=C(N1)C)C(=NN2CC)C | C9H11ClN4
reactant | 2-aminoethanol | 0.2 mol, 12 g | NCCO | C2H7NO
reactant | triethyamine | 8 ml | C(C)N(CC)CC | C6H15N
solvent | methylene dichloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-[1-ethyl-3,5-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl]aminoethanol | 7.6 g, 56% | C(C)N1N=C(C=2N=C(N=C(C21)NCCO)C)C | C11H17N5O
